US08563557B2
2-Hydroxy-5-phenylbenzaldehyde (S3)
(Fahmy, A. M.; Revue Roumaine de Chimie 1985, V30(8), P749-52) Bromosalicaldehyde (S1, 525 mg, 2.6 mmol), phenylboronic acid (S2, 349 mg, 2.86 mmol), Pd(dppf)Cl2.CH2Cl2 (106 mg, 0.13 mmol) and Na2CO3 (413 mg, 3.9 mmol) were dissolved in degassed DME/H2O (3:1) and stirred at reflux (100° C.) for 5 h. After cooling, the mixture was poured into water and extracted with DCM (3×100 ml). The combined organic layers were dried over Na2SO4 and the residue purified by silica gel chromatography (Et2O, 100%) to afford the title compound (250 mg, 50%).

reactant | phenylboronic acid | 2.86 mmol, 349 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | CH2Cl2 | 0.13 mmol, 106 mg | C(Cl)Cl | CH2Cl2
reactant | Na2CO3 | 3.9 mmol, 413 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
solvent | DME H2O | COCCOC.O
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-Hydroxy-5-phenylbenzaldehyde | 250 mg, 50% | OC1=C(C=O)C=C(C=C1)C1=CC=CC=C1 | C13H10O2
